US08072137B2
(1) Synthesis of Intermediate Compound 6: 3-methoxynaphthalen-2-ylboronic acid
Under a nitrogen atmosphere, 15.0 g (94.9 mmol) of 2-methoxynaphthalene was dissolved in tetrahydrofuran (300 ml), and the solution was cooled to 0° C. After that, 238 mL (1.6-mol/L solution, 190 mmol) of normal butyllithium were slowly dropped to the solution. After the dropping, the mixture was stirred at 0° C. for 2 hours. After that, the mixture was cooled to −10° C., and 33 mL (340 mmol) of trimethyl borate was dropped over 10 minutes to the mixture. The resultant was heated to room temperature, and was stirred overnight. After that, 0.2N hydrochloric acid was added to the resultant to stop the reaction. Chloroform was added to the resultant to separate an organic layer, and the layer was washed with a saturated aqueous solution of ammonium chloride once and with water four times. After that, the solvent was removed by distillation, and heptane and toluene were added to the resultant residue to purify the residue by recrystallization, whereby 4.81 g of Intermediate Compound 6 were obtained.

reactant | 2-methoxynaphthalene | 94.9 mmol, 15.0 g | COC1=CC2=CC=CC=C2C=C1 | C11H10O
reactant | normal butyllithium | 190 mmol, 1.6-mol/L, 238 mL | C(CCC)[Li]
reactant | trimethyl borate | 340 mmol, 33 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 0.2N | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-methoxynaphthalen-2-ylboronic acid | 4.81 g | COC=1C(=CC2=CC=CC=C2C1)B(O)O | C11H11BO3
